US09085577B2
(4-Bromo-2-chloro-phenyl)-cyclopropyl-amine (D34)
To a solution of 4-bromo-2-chloroaniline (C.A.S. 38762-41-3), (1 g, 4.843 mmol) in AcOH (19 ml) and MeOH (10 mL) was added [(1-ethoxycyclopropyl) oxy]-trimethylsilane (1.199 ml, 5.57 mmol) dropwise at r.t. The reaction mixture was then refluxed at 67-69° C. for 3 h. under a N2 atmosphere. The mixture was then concentrated in vacuo to obtain a crude oil. Into a 200 mL four-necked flask fitted with a reflux condenser, a mechanical stirrer and a thermometer were added NaBH4 (0.366 g, 9.687 mmol) and anhydrous THF (10 mL). After cooling to 5° C., BF3.Et2O complex (1.228 ml, 9.687 mmol) was added dropwise and the mixture stirred under a N2 atmosphere at 5° C. for 1 h. The crude oil dissolved in THF (5 mL), was added dropwise at 5-10° C. over 20 min. After stirring at r.t. for 5 h, at reflux for 2 h. and then removing THF by distillation, the mixture was cooled to r.t. and poured into water. The resulting mixture was extracted with Et2O. The Et2O layer was washed with water and dried (Na2SO4) followed by the removal of Et2O in vacuo. The crude product thus obtained was purified by column chromatography (silica gel; Heptane/AcOEt 99:1 as eluent). The desired fractions were collected and concentrated in vacuo to yield intermediate compound D34 (0.390 g, 32.6%).

reactant | 4-bromo-2-chloroaniline | 4.843 mmol, 1 g | BrC1=CC(=C(N)C=C1)Cl | C6H5BrClN
reactant | [(1-ethoxycyclopropyl) oxy]-trimethylsilane | 5.57 mmol, 1.199 ml | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | NaBH4 | 9.687 mmol, 0.366 g | [BH4-].[Na+]
solvent | AcOH | 19 ml | CC(=O)O | C2H4O2
solvent | MeOH | 10 mL | CO | CH4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (4-Bromo-2-chloro-phenyl)-cyclopropyl-amine | BrC1=CC(=C(C=C1)NC1CC1)Cl | C9H9BrClN
